US04943629
1-Deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-fructofuranosyl chloride
To a stirred solution of 14.4 g of 1-deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-fructofuranose in 50 ml of dichloromethane was added 7.3 ml of thionyl chloride and several drops of dimethylformamide. The solution was stirred at 25° C. for 16 hours, then diluted with ether and treated with icewater. The ether layer was washed with sodium bicarbonate solution, water and brine, dried and concentrated. The residue was subjected to column chromatography on silica gel, giving the desired compound as an oil, CMR δ 105.1 (multiplet, anomeric carbon atom).

reactant | 1-deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-fructofuranose | 14.4 g | C(C)OP(=O)(C(C1(O)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)(F)F)OCC | C31H37F2O8P
reactant | thionyl chloride | 7.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | several drops | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 1-Deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-fructofuranosyl chloride | C(C)OP(=O)(C(C1([C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)Cl)(F)F)OCC | C31H36ClF2O7P
